US06992087B2
Preparation of 2-fluoroethyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate
Following the procedure for the preparation of N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine but substituting 2-fluoroethyl chloroformate and making non-critical variations provided the title compound as an oil: 1H NMR (400 MHz, CDCl3) δ) 7.49, 7.34-7.26, 5.21, 4.70-4.58, 4.56, 4.42, 4.34, 4.10, 3.99, 3.75-3.30, 2.71, 2.47, 1.32-1.26, 1.15; IR (liq.) 2973 (s), 2347 (b), 2181 (w), 1709 (s), 1567 (s), 1553 (s), 1500 (s), 1470 (s), 1445 (s), 1426 (s), 1396 (s), 1347 (s), 1140 (s), 1103 (s), 1060 (s), cm−1HRMS (FAB) calcd for C23H29Cl2FN4O3+H 499.1679, found 499.1673. Anal. Calcd for C23H29Cl2FN4O3: C, 55.32; H, 5.85; N, 11.22. Found: C, 55.20; H, 5.91; N, 10.95.

reactant | N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine | C(C)(=O)N1C[C@H]([C@H](C1)OCC)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C22H28Cl2N4O2
reactant | 2-fluoroethyl chloroformate | ClC(=O)OCCF | C3H4ClFO2
product | 2-fluoroethyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCCF)CC | C23H29Cl2FN4O3
